US09193694B2
A mixture of 4-(pyrimidin-2-ylmethyl)-7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,4-dihydrobenzo[f][1,4]oxazepin-5(2H)-one (50 mg, 0.13 mmol), 2-bromo-5-methylthiophene (28 mg, 0.156 mmol), cesium carbonate (128 mg, 0.39 mmol), 1,1′-Bis(diphenylphosphino)ferrocene]dichloropalladium (9 mg, 0.013 mmol) was dissolved in a degassed mixture of DMF and water 3/1.5 (4.5 ml). The mixture was heated in microwave at 85° C. for 40 min. The mixture was poured into EtOAc and washed with water and brine. The organic layer was collected, dried over sodium sulfate and loaded onto silica gel. A flash column (5% MeOH in EtOAc) and reverse phase chromatography gave 7-(5-methylthiophen-2-yl)-4-(pyrimidin-2-ylmethyl)-3,4-dihydrobenzo[f][1,4]oxazepin-5(2H)-one.

reactant | 4-(pyrimidin-2-ylmethyl)-7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,4-dihydrobenzo[f][1,4]oxazepin-5(2H)-one | 0.13 mmol, 50 mg | N1=C(N=CC=C1)CN1CCOC2=C(C1=O)C=C(C=C2)B2OC(C(O2)(C)C)(C)C | C20H24BN3O4
reactant | 2-bromo-5-methylthiophene | 0.156 mmol, 28 mg | BrC=1SC(=CC1)C | C5H5BrS
reactant | cesium carbonate | 0.39 mmol, 128 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMF | CN(C)C=O | C3H7NO
solvent | water | 4.5 ml | O | H2O
catalyst | 1,1′-Bis(diphenylphosphino)ferrocene | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
catalyst | dichloropalladium | 0.013 mmol, 9 mg | Cl[Pd]Cl
product | 7-(5-methylthiophen-2-yl)-4-(pyrimidin-2-ylmethyl)-3,4-dihydrobenzo[f][1,4]oxazepin-5(2H)-one | CC1=CC=C(S1)C=1C=CC2=C(C(N(CCO2)CC2=NC=CC=N2)=O)C1 | C19H17N3O2S
